US04258058
4-[2-(Benzenesulphonylamino)-ethyl]-phenoxyacetic acid 1-hydroxy-2-propylamide.
A solution of 6.4 g. (18 mMol) 4-[2-(benzenesulphonylamino)-ethyl]-phenoxyacetyl chloride and 25 ml. anhydrous benzene is added dropwise at 0° to 5° C., over the course of 2 hours, to a mixture of 5.4 g. (72 mMol) 1-hydroxy-2-aminopropane and 35 ml. water, a precipitate thereby forming slowly. After standing overnight at 20° C., the precipitate is filtered off with suction and the filter cake is washed with dilute aqueous sodium hydroxide solution and then with water and dried. After recrystallization from ethyl acetate, there are obtained 5.2 g. (74% of theory) of the desired product; m.p. 90°-91° C.

reactant | 4-[2-(benzenesulphonylamino)-ethyl]-phenoxyacetyl chloride | 18 mMol | C1(=CC=CC=C1)S(=O)(=O)NCCC1=CC=C(OCC(=O)Cl)C=C1 | C16H16ClNO4S
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 1-hydroxy-2-aminopropane | 72 mMol | OCC(C)N | C3H9NO
solvent | water | O | H2O
product | 4-[2-(Benzenesulphonylamino)-ethyl]-phenoxyacetic acid 1-hydroxy-2-propylamide | OCC(C)NC(COC1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=CC=C1)=O | C19H24N2O5S
